US09085583B2
2,4-dimethoxy-6-methylnicotinonitrile (10.0 g, 56 mmol) was dissolved in the mixture of THF (260 ml) and methanol (260 ml). Raney Ni (wet, 10.0 g), TEA (29.0 g, 280 mmol) and Boc2O (36.8 g, 168 mmol) were added. Then the mixture was hydrogenated (1 atom) at r.t. overnight. After reaction completed, the reaction mixture was filtered through a Celite pad. 6 parallel reactions were combined and concentrated under vacuum to give tert-butyl((2,4-dimethoxy-6-methylpyridin-3-yl)methyl)carbamate as a yellow solid. (84 g, yield 88%).

reactant | 2,4-dimethoxy-6-methylnicotinonitrile | 56 mmol, 10.0 g | COC1=C(C#N)C(=CC(=N1)C)OC | C9H10N2O2
reactant | Boc2O | 168 mmol, 36.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 260 ml | C1CCOC1 | C4H8O
solvent | methanol | 260 ml | CO | CH4O
catalyst | Ni | 10.0 g | [Ni] | Ni
product | tert-butyl((2,4-dimethoxy-6-methylpyridin-3-yl)methyl)carbamate | yield 88% | C(C)(C)(C)OC(NCC=1C(=NC(=CC1OC)C)OC)=O | C14H22N2O4
